US07960552B2
To a solution of ethyl 5-cyclopropyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (289 mg, 0.886 mmol) in THF (4 mL) at 0° C. was slowly added diisobutylaluminum hydride (1.5M in toluene, 1.24 mL, 1.86 mmol). The solution was allowed to warm slowly to ambient temperature. After approximately 4 hours of stirring, the solution was re-cooled to 0° C. and an additional 1 mL of diisobutylaluminum hydride was added. After approximately 1.5 hours of stirring the mixture was re-cooled to 0° C., quenched with some aqueous Rochelle's salt and allowed to stir overnight while warming to ambient temperature. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed once with Rochelle's Salt, dried over magnesium sulfate and concentrated to afford [5-cyclopropyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol (242 mg, 96%). 1H-NMR (400 MHz, DMSO-d6) δ 7.61-7.51 (m, 3H), 4.93 (t, J=5 Hz, 1H), 4.19 (d, J=5 Hz, 2H), 2.31-2.27 (m, 1H), 1.11-1.04 (m, 4H).

reactant | ethyl 5-cyclopropyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 0.886 mmol, 289 mg | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C15H13Cl2NO3
reactant | diisobutylaluminum hydride | 1.86 mmol, 1.5M, 1.24 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [5-cyclopropyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | 242 mg, 96% | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C13H11Cl2NO2
